* ch05_08_bias_source_follower: mirror-biased source follower
.include ../../models/educational_cmos.inc
Vdd vdd 0 {VDD}
Vin in 0 DC 1.0 AC 1m
Iref vdd nref DC 100u
Mref nref nref 0 0 NMOS W=10u L=0.18u
Msink out nref 0 0 NMOS W=10u L=0.18u
M1 vdd in out 0 NMOS W=10u L=0.18u

.control
set noaskquit
set wr_singlescale
set wr_vecnames
set hcopydevtype=svg
dc Vin 0.5 1.8 0.005
plot v(out) vs v(in) title "ch05_08 VOUT-VIN"
hardcopy ../../results/ch05_08_bias_source_follower_dc.svg v(out) vs v(in)
wrdata ../../results/ch05_08_bias_source_follower_dc.dat v(in) v(out)
ac dec 80 10 10G
plot vdb(out) title "ch05_08 AC Gain"
hardcopy ../../results/ch05_08_bias_source_follower_gain.svg vdb(out)
plot {180/PI*vp(out)} title "ch05_08 AC Phase"
hardcopy ../../results/ch05_08_bias_source_follower_phase.svg {180/PI*vp(out)}
wrdata ../../results/ch05_08_bias_source_follower_ac.dat frequency vdb(out) vp(out)
quit
.endc
.end

